US06670372B2
Using the general method of Example7, 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.50 g, 1.88 mmol) was reacted with 2,6-dimethyl iodobenzene (0.61 g, 2.63 mmol). The crude product was purified by column chromatography eluting with 95/5 dichloromethane/methanol to provide 0.056 g of 1-(2-{[3-(2,6-dimethylphenyl)-2-propynyl]oxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a solid, m.p. 200-201° C.

reactant | 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.88 mmol, 0.50 g | C(C#C)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C15H14N4O
reactant | 2,6-dimethyl iodobenzene | 2.63 mmol, 0.61 g | CC1=C(C(=CC=C1)C)I | C8H9I
product | 1-(2-{[3-(2,6-dimethylphenyl)-2-propynyl]oxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.056 g | CC1=C(C(=CC=C1)C)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C23H22N4O
